US07214673B2
(S)-10-{3-[2-(4-Methoxy-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Combine (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine (180 mg, 0.82 mmol), 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine (188 mg, 0.82 mmol), 1-methyl-2-pyrrolidinone (5 mL). Heat at 195° C. After 3.75 h, cool to ambient temperature and stir 18 h. Combine with another 2.30 mmol reaction executed under same conditions. Dilute with ethyl acetate and water. Extract with ethyl acetate. Wash the extracts with water and brine, dry over sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (2.5%–4%) as the eluent to give 388 mg (29%) of the title compound: mass spectrum (ion spray): m/z=434 (M+1), 432 (M−1). HR-MS calculated for C24H28N5OS: 434.2015. Found 434.201 HPLC: Symmetry C18 column (3.5 μm, 4.6×50 mm). Gradient 5% to 90% solvent B in 7 min. Solvent A was 0.1% (v/v) TFA in water and solvent B was acetonitrile. Retention time 5.4 min; 100% pure.

reactant | (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine | 0.82 mmol, 180 mg | COC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C13H20N2O
reactant | 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 0.82 mmol, 188 mg | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | 1-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-10-{3-[2-(4-Methoxy-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 388 mg, 29% | COC1=CC=C(C=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C)C=CC=C2 | C24H27N5OS
